US07125901B2
Di-tert-butyl {[(4-{2-[2-(acetylamino)-1,3-thiazol-4-yl]ethyl}phenyl)amino]methylidene}biscarbamate (310 mg) prepared in a similar manner according to Step 5 of the following Production Example 18 was dissolved in methanol (6 ml) and tetrahydrofuran (3 ml) under nitrogen atmosphere. Then N-bromosuccinimide (164 mg) was added to the solution at 0° C. The reaction mixture was stirred at room temperature for 4 hours, and concentrated in vacuo. Chloroform and saturated sodium hydrogen carbonate solution were added to the residue. The organic layer was washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The residue was purified by flash column chromatography over silica gel with n-hexane/ethyl acetate (2:1) as an eluent to give di-tert-butyl {[(4-{2-[2-(acetylamino)-5-bromo-1,3-thiazol-4-yl]ethyl}phenyl)amino]methylidene}biscarbamate (271.4 mg) as a colorless amorphous substance.

reactant | Di-tert-butyl {[(4-{2-[2-(acetylamino)-1,3-thiazol-4-yl]ethyl}phenyl)amino]methylidene}biscarbamate | 310 mg | C(C)(=O)NC=1SC=C(N1)CCC1=CC=C(C=C1)NC(NC(OC(C)(C)C)=O)NC(OC(C)(C)C)=O | C24H35N5O5S
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | N-bromosuccinimide | 164 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methanol | 6 ml | CO | CH4O
product | di-tert-butyl {[(4-{2-[2-(acetylamino)-5-bromo-1,3-thiazol-4-yl]ethyl}phenyl)amino]methylidene}biscarbamate | 271.4 mg | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C=C1)NC(NC(OC(C)(C)C)=O)NC(OC(C)(C)C)=O)Br | C24H34BrN5O5S
